US04806539
2.1 g (10 mmol) of 1-cinnamyl-piperazine and 2.2 g of 1,4-diazabicyclo[2.2.2]octane are added to 2.8 g (10 mmol) of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 35 ml of dimethyl sulphoxide, and the mixture is heated at 140° for 5 hours. It is concentrated under a high vacuum, the residue is stirred with 50 ml of water and the pH is brought to 6 with 2N hydrochloric acid. The precipitate which has separated out is filtered off with suction, washed with water and boiled up with methanol. 1.7 g of 7-(4-cinnamyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 230°-234° (with decomposition) are obtained.

reactant | 1-cinnamyl-piperazine | 10 mmol, 2.1 g | C(C=CC1=CC=CC=C1)N1CCNCC1 | C13H18N2
reactant | 1,4-diazabicyclo[2.2.2]octane | 2.2 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 10 mmol, 2.8 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
solvent | dimethyl sulphoxide | 35 ml | CS(=O)C | C2H6OS
product | 7-(4-cinnamyl-1-piperazinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.7 g | C(C=CC1=CC=CC=C1)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C26H26FN3O3
